US07388061B2
To 7.5 g (0.04 mol) 2,2-diisobutyl-1,3-propandiol was added 50 ml tetrahydrofuran, then added 9.7 ml (0.12 mol) pyridine with stirring. To the resulting homogenous mixture was slowly added 11.6 ml (0.1 mol) benzoyl chloride. The mixture was stirred at room temperature for 1 hour, and heated refluxing for 5 hours. Upon completing the reaction, 40 ml water was added to dissolve the resulting salt. The mixture was extracted with ethyl acetate. The organic phase was separated, washed with saturated saline for two times, and dried over anhydrous sodium sulfate. The solvent was removed. Distillation under reduced pressure gave 2,2-diisobutyl-1,3-propandiol dibenzoate as a pale yellow liquid, the yield was 93%.

reactant | 2,2-diisobutyl-1,3-propandiol | 0.04 mol, 7.5 g | C(C(C)C)C(CO)(CO)CC(C)C | C11H24O2
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | pyridine | 0.12 mol, 9.7 ml | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 0.1 mol, 11.6 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | water | 40 ml | O | H2O
product | 2,2-diisobutyl-1,3-propandiol dibenzoate | yield was 93% | C(C1=CC=CC=C1)(=O)OCC(COC(C1=CC=CC=C1)=O)(CC(C)C)CC(C)C | C25H32O4
